US07935815B2
Synthesis of 2-[2-(toluene-4-sulfinyl)ethyl]-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine
2-(2-p-Tolylsulfanylethyl)-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine (8.8 g) was dissolved in a mixed solvent of methanol-water (2:1 v/v) (300 ml). Sodium periodide (6.78 g) was added under cooling with an ice water bath, and the reaction solution was stirred at room temperature overnight. Ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine and then dried over anhydrous sodium sulfate. The drying agent was separated by filtration and the organic layer was concentrated under reduced pressure to obtain the title compound (8.87 g). The property values of the compound are as follows.

reactant | 2-(2-p-Tolylsulfanylethyl)-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine | 8.8 g | C1(=CC=C(C=C1)SCCC1=NN2C(C(CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)C | C22H22F3N3S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | methanol water | 300 ml | CO.O
product | 2-[2-(toluene-4-sulfinyl)ethyl]-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine | 8.87 g | C1(=CC=C(C=C1)S(=O)CCC1=NN2C(C(CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)C | C22H22F3N3OS
